US08076336B2
1-[3-tert-Butyl-5-(2-methoxyethoxy)phenyl]ethanone
3-tert-Butyl-N-methoxy-5-(2-methoxyethoxy)-N-methylbenzamide (O3.043; 1.35 g) was dissolved in THF (40 ml), methylmagnesium bromide (3.05 ml, 3 M in ether) was added dropwise at 0° C. and then the mixture was stirred at RT for 2 h. Then the mixture was admixed with 1 N hydrochloric acid (50 ml), diluted with water and extracted by shaking three times with EA. Then the combined EA phases were dried over magnesium sulfate, filtered and concentrated. The residue was purified using silica gel (40 g cartridge, n-heptane/EA gradient of 0-30% in 30 min). 1.0 g of the title compound were obtained.

reactant | 3-tert-Butyl-N-methoxy-5-(2-methoxyethoxy)-N-methylbenzamide | 1.35 g | C(C)(C)(C)C=1C=C(C(=O)N(C)OC)C=C(C1)OCCOC | C16H25NO4
reactant | methylmagnesium bromide | 3 M, 3.05 ml | C[Mg]Br
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[3-tert-Butyl-5-(2-methoxyethoxy)phenyl]ethanone | 1.0 g | C(C)(C)(C)C=1C=C(C=C(C1)OCCOC)C(C)=O | C15H22O3
